US09233956B2
Step C: 1,1-dimethylethyl {1-[4-(3-amino-2-fluorophenyl)-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate
To a solution of 2-propen-1-yl (3-{5-(2-chloro-4-pyrimidinyl)-2-[1-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-methylethyl]-1,3-thiazol-4-yl}-2-fluorophenyl)carbamate (1.28 g, 2.336 mmol). tri-n-butyltin hydride (0.624 mL, 2.336 mmol) in dichloromethane (DCM) (50 mL) was added tetrakis(triphenyl-phosphine)palladium(0) (0.135 g, 0.117 mmol) followed by water (0.2 mL). After 30 min, the reaction was concentrated. The residue was purified via chromatography on silica gel to obtain the title compound (0.81 g 74% yield). MS (ESI): 464.1 [M+H]+

reactant | 2-propen-1-yl (3-{5-(2-chloro-4-pyrimidinyl)-2-[1-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-methylethyl]-1,3-thiazol-4-yl}-2-fluorophenyl)carbamate | 2.336 mmol, 1.28 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)NC(=O)OC(C)(C)C)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C25H27ClFN5O4S
reactant | tri-n-butyltin hydride | 2.336 mmol, 0.624 mL | C(CCC)[SnH](CCCC)CCCC
reactant | water | 0.2 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl {1-[4-(3-amino-2-fluorophenyl)-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate | 0.81 g, 74% yield | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)NC(OC(C)(C)C)=O)F | C21H23ClFN5O2S
